US08202873B2
N-{4-[4-(1-Ethyl-3-methyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-benzyl}-acetamide hydrochloride
Dissolve 3′-chloro-4-(1-ethyl-3-methyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (0.204 g, 0.636 mmol) in tetrahydrofuran (1.75 mL) and water (0.9 mL). Add potassium carbonate (0.193 g, 1.40 mmol) then 4-acetamidomethylbenzeneboronic acid (0.172 g, 0.890 mmol) and degas with nitrogen for 15 min. Add tri-n-butylphosphine tetrafluoroborate (7.4 mg, 0.0254 mmol) and tris(dibenzylideneacetone)dipalladium(0) (12 mg, 0.0127 mmol) and reflux for 20 hr. Cool to room temperature then dilute with saturated aq. sodium bicarbonate and extract 3 times with ethyl acetate. Dry (sodium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 4.5:95.5 methanol (with 2 M ammonia):DCM), to give a yellow solid. Dissolve the solid in methanol and add ammonium chloride (1 equivalent) then sonicate the mixture for 10 min. Evaporate the solution to give the title compound as a yellow solid (0.172 g, 51%). MS (ES): m/z [M+H]=434

reactant | 3′-chloro-4-(1-ethyl-3-methyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.636 mmol, 0.204 g | ClC=1C(=NC=CN1)N1CCN(CC1)CC=1C(=NN(C1)CC)C | C15H21ClN6
reactant | potassium carbonate | 1.40 mmol, 0.193 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-acetamidomethylbenzeneboronic acid | 0.890 mmol, 0.172 g | C(C)(=O)NCC1=CC=C(C=C1)B(O)O | C9H12BNO3
reactant | ammonium chloride | 1 equivalent | [Cl-].[NH4+]
solvent | tetrahydrofuran | 1.75 mL | O1CCCC1 | C4H8O
solvent | water | 0.9 mL | O | H2O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | CO | CH4O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.0127 mmol, 12 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tri-n-butylphosphine tetrafluoroborate | 0.0254 mmol, 7.4 mg | F[B-](F)(F)F.C(CCC)P(CCCC)CCCC
product | N-{4-[4-(1-Ethyl-3-methyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-benzyl}-acetamide hydrochloride | 0.172 g, 51% | Cl.C(C)N1N=C(C(=C1)CN1CCN(CC1)C1=NC=CN=C1C1=CC=C(CNC(C)=O)C=C1)C | InChI=1S/C24H31N7O.ClH/c1-4-31-17-22(18(2)28-31)16-29-11-13-30(14-12-29)24-23(25-9-10-26-24)21-7-5-20(6-8-21)15-27-19(3)32;/h5-10,17H,4,11-16H2,1-3H3,(H,27,32);1H
